US07101884B2
To a solution of indoline (30 g, 251.74 mmol) and triethylamine (70.18 mL, 503.48 mmol) in methylene chloride (500 mL) cooled to 0° C. was added trifluoroacetic anhydride (53.34 mL, 377.61 mmol) dropwise over 20 minutes. The reaction mixture was warmed to room temperature and stirred for 30 minutes. The solution was washed once with saturated aqueous NaHCO3 (500 mL), dried over Na2SO4, then concentrated in vacuo. The resulting solid was suspended in hexanes and collected by filtration. The solid was vacuum dried to afford 1-(trifluoroacetyl)indoline; 1H NMR (500 MHz, CDCl3) δ 8.22 (d, 1H, J=8.54 Hz), 7.27 (m, 2H), 7.16 (t, 1H, J=7.5 Hz), 4.28 (t, 2H, J=8.3 Hz), 3.27 (t, 2H, J=7.3 Hz).

reactant | indoline | 251.74 mmol, 30 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | triethylamine | 503.48 mmol, 70.18 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 377.61 mmol, 53.34 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 1-(trifluoroacetyl)indoline | FC(C(=O)N1CCC2=CC=CC=C12)(F)F | C10H8F3NO
